US07282469B2
A mixture of 11.2 g (36.4 mmol) of 5-methyl-4-methylsulfonyl-2-(4-trifluoromethyl-1H -1-pyrazolyl)pyrimidine, 7.7 g (47.4 mmol) of 3-trifluoromethylphenol and 10.1 g (72.9 mmol) of K2CO3 in 200 ml of DMF is stirred at RT for 24 h. It is then poured into 200 ml of water and extracted with four times 100 ml of CH2Cl2. The combined organic phase is dried over Na2SO4, filtered and concentrated. Chromatographic purification on silica gel with heptane/ethyl acetate (1:1) as eluent gives 10.2 g (72%) of 5-methyl-4-(3-trifluoromethylphenoxy)-2-(4-trifluoromethyl-1H-1-pyrazolyl)pyrimidine as colourless crystals having a melting point of 103-105° C.

reactant | 5-methyl-4-methylsulfonyl-2-(4-trifluoromethyl-1H -1-pyrazolyl)pyrimidine | 36.4 mmol, 11.2 g | CC=1C(=NC(=NC1)N1N=CC(=C1)C(F)(F)F)S(=O)(=O)C | C10H9F3N4O2S
reactant | 3-trifluoromethylphenol | 47.4 mmol, 7.7 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | K2CO3 | 72.9 mmol, 10.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 5-methyl-4-(3-trifluoromethylphenoxy)-2-(4-trifluoromethyl-1H-1-pyrazolyl)pyrimidine | 10.2 g, 72% | CC=1C(=NC(=NC1)N1N=CC(=C1)C(F)(F)F)OC1=CC(=CC=C1)C(F)(F)F | C16H10F6N4O
